US05359102
In a 300-cm3 four-necked flask in which the atmosphere was replaced with nitrogen, 4.9 g of bicyclo[3,3,0]octane-3,7-dione and 12 g of cyclopentadiene were dissolved in 100 cm3 of methanol. 12 cm3 of pyrrolidine was added dropwise to the solution at 0° C. over 30 minutes, and the produced solid was collected by filtration, washed with methanol, and then dried to obtain 5.3 g of yellow 3,7-biscyclopentadienylidenebicyclo[3,3,0]octane.

reactant | bicyclo[3,3,0]octane-3,7-dione | 4.9 g | C12CC(CC2CC(C1)=O)=O | C8H10O2
reactant | cyclopentadiene | 12 g | C1=CC=CC1 | C5H6
reactant | pyrrolidine | 12 cm3 | N1CCCC1 | C4H9N
reactant | methanol | 100 cm3 | CO | CH4O
product | 3,7-biscyclopentadienylidenebicyclo[3,3,0]octane | 5.3 g | C1(C=CC=C1)=C1CC2CC(CC2C1)=C1C=CC=C1 | C18H18
